US09145393B2
Step 2: 3,5-Dibromo-2-methoxypyridine
Bromine (17.8 g, 111 mmol) was added to a solution of 5-bromo-2-methoxypyridine (12.0 g, 63.8 mmol), sodium acetate (5.23 g, 63.8 mmol), and acetic acid (65 mL). The mixture was stirred at 80° C. for 4 h and then at room temperature for 12 h. The mixture was diluted with ether and washed with water, sodium bicarbonate and hypo solution. The organic layer was dried over sodium sulphate, filtered and concentrated. Purification by chromatography using 1-5% ethyl acetate in pet ether provided 10.6 g of the desired compound: 1H NMR (300 MHz, DMSO-d6) 8.20-8.40 (m, 2H), 3.92 (s, 3H).

reactant | Bromine | 111 mmol, 17.8 g | BrBr | Br2
reactant | 5-bromo-2-methoxypyridine | 63.8 mmol, 12.0 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | sodium acetate | 63.8 mmol, 5.23 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 65 mL | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 3,5-Dibromo-2-methoxypyridine | 10.6 g | BrC=1C(=NC=C(C1)Br)OC | C6H5Br2NO
